US08895745B2
Step b) 5-Imidazo[1,2-a]pyridin-7-yl-pyridine-2-carboxylic acid methyl ester
To a stirred mixture of 7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine (732 mg, 3 mmol), 5-bromopyridine-2-carboxylic acid methyl ester (650 mg, 3 mmol) and cesium carbonate (2.0 g, 6 mmol) in dry DME (15 ml) was added PdCl2dppf (220 mg, 0.3 mmol) and H2O (55 μl, 3 mmol). The reaction mixture was deoxygenated and then heated at 80° C. for 3 h. The mixture was allowed to cool, then partitioned between CH2Cl2/H2O and stirred for 20 min. The solid material was filtered off and washed with MeOH (100 ml). The CH2Cl2 layer was separated, combined with the MeOH washings and the solvent removed in vacuo. The residue was purified by silica column chromatography (0-3% 2M NH3. MeOH/CH2Cl2) to afford a dark yellow solid, which was used directly in the next reaction (492 mg). MS: [M+H]+=254. 1H NMR d6 DMSO: 9.21 (1H, d), 8.71 (1H, d), 8.44 (1H, dd), 8.20-8.10 (2H, m), 8.04 (1H, s), 7.69 (1H, s), 7.43 (1H, dd), 3.92 (3H, s).

reactant | 7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridine | 3 mmol, 732 mg | CC1(OB(OC1(C)C)C1=CC=2N(C=C1)C=CN2)C | C13H17BN2O2
reactant | 5-bromopyridine-2-carboxylic acid methyl ester | 3 mmol, 650 mg | COC(=O)C1=NC=C(C=C1)Br | C7H6BrNO2
reactant | cesium carbonate | 6 mmol, 2.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | H2O | 3 mmol, 55 μl | O | H2O
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-Imidazo[1,2-a]pyridin-7-yl-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C14H11N3O2
